US05252601
Dissolve 2,2-dicarbethoxy-indane (5.67 g, 21.7 mmol) in ethanol (150 mL). Add 1N lithium hydroxide (50 mL) and stir overnight at room temperature. Reflux for 1 hour and concentrate the solution in vacuo. Partition between ethyl acetate and 6N hydrochloric acid. Separate the organic phase and wash with brine. Dry (MgSO4) and evaporate the solvent in vacuo to give an off-white solid. Distill (120°-160° C.@0.2-0.5 mmHg) to give 2-carboxy-indane (2.5 g, 71%).

reactant | 2,2-dicarbethoxy-indane | 21.7 mmol, 5.67 g | C(=O)(OCC)C1(CC2=CC=CC=C2C1)C(=O)OCC | C15H18O4
reactant | lithium hydroxide | 1N, 50 mL | [OH-].[Li+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2-carboxy-indane | 2.5 g, 71% | C(=O)(O)C1CC2=CC=CC=C2C1 | C10H10O2
